US07273865B2
To a stirred suspension of 3.51 g (13.1 mmol) (5-methoxy-2-morpholin-4-yl-pyridin-4-yl)-thiourea in 75 ml ethyl acetate heated to reflux was added dropwise over 5 min 4.59 ml (26.2 mmol) hydrobromic acid (5.7 M solution in acetic acid) and stirring continued for a further 15 min. 1.12 ml (15.7 mmol) DMSO was then added dropwise and the reaction mixture stirred for a further 30 min at reflux. The mixture was then cooled to room temperature and partitioned between tetrahydrofuran and saturated brine. 5 N sodium hydroxide solution was added until the aqueous phase was pH 14, then 10% aq. citric acid solution was added until the aqueous phase was pH 6. The mixture was stirred for 20 min and then the phases were separated. The organic phase was dried over sodium sulfate and concentrated in vacuo. Trituration of the residue in ether afforded 2.23 g (64%) 7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-ylamine as an off-white crystalline solid. ES-MS m/e (%): 267 (M+H+, 100).

reactant | (5-methoxy-2-morpholin-4-yl-pyridin-4-yl)-thiourea | 13.1 mmol, 3.51 g | COC=1C(=CC(=NC1)N1CCOCC1)NC(=S)N | C11H16N4O2S
reactant | hydrobromic acid | 26.2 mmol, 5.7 M, 4.59 ml | Br | BrH
reactant | DMSO | 15.7 mmol, 1.12 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | 75 ml | C(C)(=O)OCC | C4H8O2
product | 7-methoxy-4-morpholin-4-yl-thiazolo[5,4-c]pyridin-2-ylamine | 2.23 g, 64% | COC=1C2=C(C(=NC1)N1CCOCC1)SC(=N2)N | C11H14N4O2S
